US04093617
3-Bromo-7-isobutyl-5-methylpyrazolo[1,5-a]pyrimidine
A solution of 7.5 g (0.026 mol) of 7-isobutyl-5-methylpyrazolo-[1,5-a]pyrimidine in 60 ml chloroform was treated with 4.6 gm (0.026 mol) of N-bromosuccinimide. The mixture was stirred at ambient temperature and then allowed to cool overnight in the refrigerator. The mixture was then poured over ice (100 gm), rendered alkaline with 6N NaOH, and extracted with chloroform. The chloroform solution was separated, dried (Na2SO4), and distilled to yield 5.5 gm, (47%) of a light yellow, viscous oil, b.p. 127°-129° /1.5 mm.

reactant | 7-isobutyl-5-methylpyrazolo-[1,5-a]pyrimidine | 0.026 mol, 7.5 g | C(C(C)C)C1=CC(=NC=2N1N=CC2)C | C11H15N3
reactant | N-bromosuccinimide | 0.026 mol, 4.6 gm | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | NaOH | 6N | [OH-].[Na+]
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Bromo-7-isobutyl-5-methylpyrazolo[1,5-a]pyrimidine | BrC=1C=NN2C1N=C(C=C2CC(C)C)C | C11H14BrN3
